US06949579B2
6-chloro-1-[(1,1-dimethylethoxy)carbonyl]-1H-indazole-3-amine
1.3 g of di-tert-butyl dicarbonate and 10 mg of dimethylaminopyridine are added to 1 g of 6-chloro-1H-indazole-3-amine in 30 cm3 of dichloromethane. The mixture is stirred for 17 hours at about 19° C. The reaction medium is evaporated to dryness according to the conditions already described, and the residue is then purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 4 cm), eluting with a cyclohexane/ethyl acetate mixture (90/10 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa, 50° C.). After drying (90 Pa; 45° C.), 1.2 g of 6-chloro-1-[(1,1-dimethylethoxy)carbonyl]-1H-indazole-3-amine are obtained in the form of a white solid.

reactant | di-tert-butyl dicarbonate | 1.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 6-chloro-1H-indazole-3-amine | 1 g | ClC1=CC=C2C(=NNC2=C1)N | C7H6ClN3
solvent | dichloromethane | 30 cm3 | ClCCl | CH2Cl2
product | 6-chloro-1-[(1,1-dimethylethoxy)carbonyl]-1H-indazole-3-amine | ClC1=CC=C2C(=NN(C2=C1)C(=O)OC(C)(C)C)N | C12H14ClN3O2
